US04886814
(a) 1-(2-Trifluoromethyl-thiazol-4-yl)-1-hydroxy-2-bromoethane
6 g (0.022 mol) of 2-Trifluoromethyl-4-bromoacetyl-thiazole are dissolved in 150 ml of methanol, and the solution is cooled to 10° C. and 0.63 g of sodium borohydride is added. After 15 minutes ice is added, and the mixture is acidified with hydrochloric acid, made alkaline with ammonia and extracted by shaking with methylene chloride. The organic phase is dried over sodium sulphate, filtered and concentrated. An oil is obtained and is reacted further as the crude product.

reactant | 2-Trifluoromethyl-4-bromoacetyl-thiazole | 0.022 mol, 6 g | FC(C=1SC=C(N1)C(CBr)=O)(F)F | C6H3BrF3NOS
reactant | sodium borohydride | 0.63 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | ammonia | N | H3N
solvent | methanol | 150 ml | CO | CH4O
product | 1-(2-Trifluoromethyl-thiazol-4-yl)-1-hydroxy-2-bromoethane | FC(C=1SC=C(N1)C(CBr)O)(F)F | C6H5BrF3NOS
